US08022062B2
(3-Pyrrolidin-1-yl)benzylamine
Slurry a mixture of (3-bromobenzyl)-carbamic acid tert-butyl ester (600 mg, 2.1 mmol, U.S. Pat. Appl. Publ. US 2003134885), pyrrolidine (450 mL, 5.2 mmol), tris(dibenzylideneacetone)dipalladium(0) (200 mg, 0.21 mmol), BINAP (400 mg, 0.63 mmol) and cesium carbonate (960 mg, 2.94 mmol) in anhydrous toluene (10 mL). Degas under vacuum, fill the system with nitrogen and heat in a sealed flask at 90° C. for 18 h. Cool to room temperature, dilute with diethyl ether, filter, and concentrate in vacuo. Dissolve the resulting residue in DCM (10 mL) and add trifluoroacetic acid (5 mL). Stir at ambient temperature for 1 h and concentrate in vacuo. Purify by chromatography on silica gel eluting sequentially with hexane/EtOAc (1:1), EtOAc and 2M ammonia in methanol. Purify again by SCX chromatography to give the title compound as a brown oil (300 mg, 85% overall). MS (ES+) m/z: 178 (M+H)+.

reactant | (3-bromobenzyl)-carbamic acid tert-butyl ester | 2.1 mmol, 600 mg | C(C)(C)(C)OC(NCC1=CC(=CC=C1)Br)=O | C12H16BrNO2
reactant | pyrrolidine | 5.2 mmol, 450 mL | N1CCCC1 | C4H9N
reactant | BINAP | 0.63 mmol, 400 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 2.94 mmol, 960 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.21 mmol, 200 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (3-Pyrrolidin-1-yl)benzylamine | 300 mg, 85% | N1(CCCC1)C=1C=C(CN)C=CC1 | C11H16N2
